US08445731B2
Into a 100-mL four-necked flask equipped with a nitrogen gas introduction tube, thermometer, Dimroth condenser, and dropping funnel was introduced 15.22 g (0.20 mol) of thioacetic acid (manufactured by Tokyo Kasei Kogyo Co., Ltd.). The contents began to be stirred, and nitrogen was introduced. Thereafter, the contents were cooled to 5° C. or lower with an ice bath, and 21.03 g (0.20 mol) of 2-vinylpyridine was added dropwise thereto through the dropping funnel over 1 hour. After completion of the dropwise addition, the ice bath was removed, and the mixture was stirred at room temperature for further 1 hour and reacted. After completion of the reaction, the liquid reaction mixture was subjected to vacuum distillation under the conditions of a bath temperature of 120° C. and a pressure of 0.8 kPa to obtain 27.8 g of 2-pyridylethyl thioacetate. As a result of analysis by gas chromatography, the 2-pyridylethyl thioacetate was found to have a purity of 96.8% and the yield thereof was found to be 78.2%.

reactant | thioacetic acid | 0.20 mol, 15.22 g | C(C)(=S)O | C2H4OS
reactant | 2-vinylpyridine | 0.20 mol, 21.03 g | C(=C)C1=NC=CC=C1 | C7H7N
product | 2-pyridylethyl thioacetate | 27.8 g | C(C)(=S)OCCC1=NC=CC=C1 | C9H11NOS
